US05391737
To a solution of 150 ml of ethylene glycol and 15 ml (0.15 moles) of cc. hydrochloric acid 24.5 g (0.075 moles) of ethyl-(2-cyanoimino-5,6-dichloro-1,2,3,4-tetrahydroquinazolin-3-yl) acetate are added in small portions, within about 10 minutes, at 115° C., and the mixture is kept at the same temperature for further 20 minutes. Then it is cooled to room temperature and made neutral by the dropwise addition of 10% potassium carbonate solution. The separated crystals are filtered off. Thus 17.75 g (93.0%) of 6,7-dichloro-1,5-dihydroimidazo[2,1-b]quinazolin-2[3H]-one base are obtained (m.p.>300° C., HPLC content: 99.5%), which is dissolved in a hot mixture of 150 ml of methanol and 150 ml of cc. ethanolic hydrogen chloride (hydrogen chloride content: 0.75 moles/1000 ml). The mixture is then cooled, the separated product is filtered off and washed with a slight amount of ethanol.

reactant | hydrochloric acid | 0.075 moles, 24.5 g | Cl | ClH
reactant | ethyl-(2-cyanoimino-5,6-dichloro-1,2,3,4-tetrahydroquinazolin-3-yl) acetate | C(C)(=O)ON1C(N(C2=CC=C(C(=C2C1)Cl)Cl)CC)=NC#N | C13H12Cl2N4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene glycol | 150 ml | C(CO)O | C2H6O2
product | 6,7-dichloro-1,5-dihydroimidazo[2,1-b]quinazolin-2[3H]-one | 17.75 g, 93.0% | ClC1=C2CN3C(=NC2=CC=C1Cl)NC(C3)=O | C10H7Cl2N3O
